US04025527
Reaction of dimethylcyanodithioimidocarbonate with 2-((2-aminoethyl)thiomethyl)-3-bromopyridine by the procedure described in Example 3 (d) gave N-cyano-N'-[2-((3-bromo-2-pyridyl)methylthio)ethyl]-S-methylisothiourea and a mixture of this compound (1.4 g.) and 3-bromo-2-((2-aminoethyl)thiomethyl)pyridine (2.0 g.) was heated at 140° for 6 hours. The product crystallised upon treatment with isopropyl acetate and was recrystallised from aqueous isopropanol to give the title compound (1.1 g.), m.p. 118°-119°.

reactant | dimethylcyanodithioimidocarbonate | CSC(SC)=NC#N | C4H6N2S2
reactant | 2-((2-aminoethyl)thiomethyl)-3-bromopyridine | NCCSCC1=NC=CC=C1Br | C8H11BrN2S
product | N-cyano-N'-[2-((3-bromo-2-pyridyl)methylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NC=CC=C1Br | C11H13BrN4S2
